US09085583B2
Step 3: (E)-methyl 3-((1-(1,4-dioxan-2-yl)ethyl)imino)-2-(2-bromophenyl)butanoate
To a solution of 1-(1,4-dioxan-2-yl)ethanamine (2.5 g, 19 mmol) in methanol (100 mL) was added methyl 2-(2-bromophenyl)-3-oxobutanoate (5.4 g, 20 mmol) and acetic acid (1.8 g, 30 mmol). The resulting reaction system was warm to reflux and allowed to stir overnight. The reaction mixture was concentrated and purified by column chromatographed on silica gel (eluted: dichloromethane/methanol 50:1→20:1→5:1) the title compound (1 g, 14%) as a brown solid. LCMS (M+H+) m/z: calcd. 383.07. found 384.9.

reactant | 1-(1,4-dioxan-2-yl)ethanamine | 19 mmol, 2.5 g | O1C(COCC1)C(C)N | C6H13NO2
reactant | methyl 2-(2-bromophenyl)-3-oxobutanoate | 20 mmol, 5.4 g | BrC1=C(C=CC=C1)C(C(=O)OC)C(C)=O | C11H11BrO3
reactant | acetic acid | 30 mmol, 1.8 g | C(C)(=O)O | C2H4O2
solvent | methanol | 100 mL | CO | CH4O
product | (E)-methyl 3-((1-(1,4-dioxan-2-yl)ethyl)imino)-2-(2-bromophenyl)butanoate | O1C(COCC1)C(C)\N=C(\C(C(=O)OC)C1=C(C=CC=C1)Br)/C | C17H22BrNO4
